US06262292B1
13.2 g of m-cyanobenzylamine, 51 g of a 35% aqueous formalin solution, 24 g of a 28% aqueous ammonia solution and 50 ml of acetic acid were mixed and reacted at 100° C. for 3 hours while stirring. The reaction solution was concentrated to dry in an evaporator and thereto 100 ml of water was added to precipitate crystals. The crystals precipitated were collected by filtration, washed with water and dried to obtain 7 g (yield: 54%) of m-cyanobenzaldehyde. The purity was 99% or more.

reactant | m-cyanobenzylamine | 13.2 g | C(#N)C=1C=C(CN)C=CC1 | C8H8N2
reactant | formalin | C=O | CH2O
reactant | ammonia | N | H3N
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | m-cyanobenzaldehyde | 7 g, yield: 54% | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
